US07423159B2
A mixture of 1-[2-(4-nitrophenyl)ethyl]-1H-pyrazole (0.8 g), 10% palladium carbon (80 mg) and ethanol (200 ml) was stirred under a hydrogen atmosphere at room temperature for 6 hrs. Palladium carbon was removed from the reaction mixture by filtration, and the filtrate was concentrated. Recrystallization of the residue from ethyl acetate-hexane gave 1-[2-(4-aminophenyl)ethyl]-1H-pyrazole (520 mg, 75%) as colorless prism crystals. melting point: 73-74° C.

reactant | 1-[2-(4-nitrophenyl)ethyl]-1H-pyrazole | 0.8 g | [N+](=O)([O-])C1=CC=C(C=C1)CCN1N=CC=C1 | C11H11N3O2
catalyst | palladium carbon | 80 mg | [C].[Pd]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-[2-(4-aminophenyl)ethyl]-1H-pyrazole | 520 mg, 75% | NC1=CC=C(C=C1)CCN1N=CC=C1 | C11H13N3
